US09085570B2
To a solution of methyl 4-(4-(3-tert-butoxy-2-(tert-butoxycarbonyl)-3-oxopropyl)-5-methyloxazol-2-yl)benzoate (4.0 g, 8.99 mmol, 1.00 equiv) in dichloromethane (20 mL) was added trifluoroacetic acid (20 mL). The reaction mixture was stirred overnight at 35° C. and then concentrated under vacuum to remove dichloromethane. Saturated sodium bicarbonate solution was added to the residue until the pH value of the solution was adjusted to 2-3. The resulting solution was extracted with 200 mL of ethyl acetate. The organic layer was washed with 2×50 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum to yield 3.0 g (100%) of 2-((2-(4-(methoxycarbonyl)phenyl)-5-methyloxazol-4-yl)methyl)malonic acid as a light yellow solid. LC-MS: (ES, m/z): 334 [M+H]+, 272, 115.

reactant | methyl 4-(4-(3-tert-butoxy-2-(tert-butoxycarbonyl)-3-oxopropyl)-5-methyloxazol-2-yl)benzoate | 8.99 mmol, 4.0 g, 1.00 equiv | C(C)(C)(C)OC(C(CC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1)C(=O)OC(C)(C)C)=O | C24H31NO7
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-((2-(4-(methoxycarbonyl)phenyl)-5-methyloxazol-4-yl)methyl)malonic acid | 3.0 g, 100% | COC(=O)C1=CC=C(C=C1)C=1OC(=C(N1)CC(C(=O)O)C(=O)O)C | C16H15NO7
